US04293694
6 g of 3-nitro-7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylic acid was dissolved in 100 ml of a 2% aqueous potassium hydroxide solution and the solution was catalytically reduced by the Parr method (3 kg/cm2) in the presence of 5 g of Raney nickel. After completion of the reduction, the mixture was filtered and the filter cake on the filter paper was washed with water and the combined filtrate and the washing was rendered neutral with glacial acetic acid to precipitate brown crystals. The resulting crystals were filtered, washed with water, dried and recrystallized from DMF-H2O to obtain 3.7 g of 3-amino-7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylic acid having a melting point of 253°-356° C. (with decomposition).

reactant | 3-nitro-7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylic acid | 6 g | [N+](=O)([O-])C1=CC=C2C3CCCCC3N3C2=C1C(C(=C3)C(=O)O)=O | C16H14N2O5
solvent | potassium hydroxide | [OH-].[K+]
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | 3-amino-7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylic acid | 3.7 g | NC1=CC=C2C3CCCCC3N3C2=C1C(C(=C3)C(=O)O)=O | C16H16N2O3
